US04581220
N,N-bis(2'-ethylhexyl)pyrazine-2-carboxamide was prepared from pyrazine-2-carboxylic acid and bis(2-ethylhexyl)amine by the general method of Example 5, the amine being used in place of the alcohol. The compound had a boiling range of 155° to 160° C. at 0.2 mm pressure of mercury.

reactant | pyrazine-2-carboxylic acid | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | bis(2-ethylhexyl)amine | C(C)C(CNCC(CCCC)CC)CCCC | C16H35N
catalyst | mercury | [Hg] | Hg
product | N,N-bis(2'-ethylhexyl)pyrazine-2-carboxamide | C(C)C(CN(C(=O)C1=NC=CN=C1)CC(CCCC)CC)CCCC | C21H37N3O
